US07851493B2
2.70 g [4-Difluoromethyl-2-(4-methoxy-phenyl)-thiazol-5-yl]-methanol were dissolved in 15 ml dichloromethane and cooled in an ice bath. 2.07 ml triethylamine were added, followed by the addition of 0.92 ml methanesulfonylchloride. The ice bath was removed and the resulting mixture stirred at room temperature over night. Then 2.07 ml triethylamine and 0.92 ml methanesulfonylchloride were added again and the reaction mixture stirred at room temperature for additional four hours. The reaction mixture was then washed with water and brine, dried over MgSO4 and the solvent removed in vacuo to obtain 3.0 g crude 5-chloromethyl-4-difluoromethyl-2-(4-methoxy-phenyl)-thiazole as an oil which was used without further purification.

reactant | [4-Difluoromethyl-2-(4-methoxy-phenyl)-thiazol-5-yl]-methanol | 2.70 g | FC(C=1N=C(SC1CO)C1=CC=C(C=C1)OC)F | C12H11F2NO2S
reactant | triethylamine | 2.07 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 0.92 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-chloromethyl-4-difluoromethyl-2-(4-methoxy-phenyl)-thiazole | 3.0 g | ClCC1=C(N=C(S1)C1=CC=C(C=C1)OC)C(F)F | C12H10ClF2NOS
